US05576321
Preparation of 6-nitro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
The title compound was prepared in a fashion similar to that described in Preparation 30 from 6-nitroindole (6.0 g, 37 mmol) and 4-piperidone hydrochloride hydrate (11.4 g, 74 mmol). The product was isolated as an orange solid. Yield 8.8 g (97%). mp 247°-250° C. (dec.) FDMS m/e=243 (M+ of free base).

reactant | 6-nitroindole | 37 mmol, 6.0 g | [N+](=O)([O-])C1=CC=C2C=CNC2=C1 | C8H6N2O2
reactant | 4-piperidone hydrochloride hydrate | 74 mmol, 11.4 g | O.Cl.N1CCC(CC1)=O
product | 6-nitro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | [N+](=O)([O-])C1=CC=C2C(=CNC2=C1)C=1CCNCC1 | C13H13N3O2
